* ds4424.lib
* Automatically Generated by ibis2pspice.py
* Copyright 2025 - Carroll Consulting Engineers, LLC DBA EMI Sleuth 
* Contact Email: russell@emisleuth.com 
*
* --- Pinout Reference from IBIS Model (ds4424.ibs Rev 1.0) ---
* 
* Pin                SIGNAL_NAME        MODEL_NAME         R_PIN              L_PIN              C_PIN              
* 1                  SDA                SDA                0                  0                  0                  
* 2                  SCL                IN_PAD             0                  0                  0                  
* 3                  GND                GND                
* 4                  FS3                IN_PAD             0                  0                  0                  
* 5                  FS2                IN_PAD             0                  0                  0                  
* 6                  FS1                IN_PAD             0                  0                  0                  
* 7                  FS0                IN_PAD             0                  0                  0                  
* 8                  OUT0               NC                 
* 9                  A0                 IN_PAD             0                  0                  0                  
* 10                 OUT1               NC                 
* 11                 A1                 IN_PAD             0                  0                  0                  
* 12                 OUT2               NC                 
* 13                 VCC                POWER              
* 14                 OUT3               NC                 
*
* --- List of PSpice Models ---
*
*   DS4424_IN_PAD_TYP
*   DS4424_IN_PAD_MIN
*   DS4424_IN_PAD_MAX
*   DS4424_SDA_TYP
*   DS4424_SDA_MIN
*   DS4424_SDA_MAX

.SUBCKT DS4424_IN_PAD_TYP INPUT DIE REF
+ PARAMS:
+ R_PIN=0E-3
+ L_PIN=0E-9
+ C_PIN=0E-3

V1 VCC REF 3.3
V2 VEE REF 0

* Package Parasitics Typ
ROSNB DIE N2 20.0
ROPKG N2 INPUT {R_PIN}
COPKG INPUT REF {C_PIN} IC=0
LOPKG DIE N2 {L_PIN}
CCOMP DIE VEE 2.265E-13 IC=0

* Ground clamp
GGND_CLAMP DIE VEE TABLE {V(DIE,VEE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

* Power Clamp
GPWR_CLAMP DIE VCC TABLE {V(VCC,DIE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

.ENDS DS4424_IN_PAD_TYP


.SUBCKT DS4424_IN_PAD_MIN INPUT DIE REF
+ PARAMS:
+ R_PIN=0E-3
+ L_PIN=0E-9
+ C_PIN=0E-3

V1 VCC REF 3.1
V2 VEE REF 0

* Package Parasitics Typ
ROSNB DIE N2 20.0
ROPKG N2 INPUT {R_PIN}
COPKG INPUT REF {C_PIN} IC=0
LOPKG DIE N2 {L_PIN}
CCOMP DIE VEE 1.380E-13 IC=0

* Ground clamp
GGND_CLAMP DIE VEE TABLE {V(DIE,VEE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

* Power Clamp
GPWR_CLAMP DIE VCC TABLE {V(VCC,DIE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

.ENDS DS4424_IN_PAD_MIN


.SUBCKT DS4424_IN_PAD_MAX INPUT DIE REF
+ PARAMS:
+ R_PIN=0E-3
+ L_PIN=0E-9
+ C_PIN=0E-3

V1 VCC REF 3.5
V2 VEE REF 0

* Package Parasitics Typ
ROSNB DIE N2 20.0
ROPKG N2 INPUT {R_PIN}
COPKG INPUT REF {C_PIN} IC=0
LOPKG DIE N2 {L_PIN}
CCOMP DIE VEE 3.897E-13 IC=0

* Ground clamp
GGND_CLAMP DIE VEE TABLE {V(DIE,VEE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

* Power Clamp
GPWR_CLAMP DIE VCC TABLE {V(VCC,DIE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

.ENDS DS4424_IN_PAD_MAX


.SUBCKT DS4424_SDA_TYP INPUT DIE REF
+ PARAMS:
+ R_PIN=0E-3
+ L_PIN=0E-9
+ C_PIN=0E-3

V1 VCC REF 3.3
V2 VEE REF 0

* Package Parasitics Typ
ROSNB DIE N2 20.0
ROPKG N2 INPUT {R_PIN}
COPKG INPUT REF {C_PIN} IC=0
LOPKG DIE N2 {L_PIN}
CCOMP DIE VEE 1.172E-12 IC=0

* Ground clamp
GGND_CLAMP DIE VEE TABLE {V(DIE,VEE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

* Power Clamp
GPWR_CLAMP DIE VCC TABLE {V(VCC,DIE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

.ENDS DS4424_SDA_TYP


.SUBCKT DS4424_SDA_MIN INPUT DIE REF
+ PARAMS:
+ R_PIN=0E-3
+ L_PIN=0E-9
+ C_PIN=0E-3

V1 VCC REF 3.1
V2 VEE REF 0

* Package Parasitics Typ
ROSNB DIE N2 20.0
ROPKG N2 INPUT {R_PIN}
COPKG INPUT REF {C_PIN} IC=0
LOPKG DIE N2 {L_PIN}
CCOMP DIE VEE 1.046E-12 IC=0

* Ground clamp
GGND_CLAMP DIE VEE TABLE {V(DIE,VEE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

* Power Clamp
GPWR_CLAMP DIE VCC TABLE {V(VCC,DIE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

.ENDS DS4424_SDA_MIN


.SUBCKT DS4424_SDA_MAX INPUT DIE REF
+ PARAMS:
+ R_PIN=0E-3
+ L_PIN=0E-9
+ C_PIN=0E-3

V1 VCC REF 3.5
V2 VEE REF 0

* Package Parasitics Typ
ROSNB DIE N2 20.0
ROPKG N2 INPUT {R_PIN}
COPKG INPUT REF {C_PIN} IC=0
LOPKG DIE N2 {L_PIN}
CCOMP DIE VEE 1.233E-12 IC=0

* Ground clamp
GGND_CLAMP DIE VEE TABLE {V(DIE,VEE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

* Power Clamp
GPWR_CLAMP DIE VCC TABLE {V(VCC,DIE)}
+ -1.0, 0.0
+ 0.0, 0.0
+ 1.0, 0.0

.ENDS DS4424_SDA_MAX

